US07435837B2
Treatment of (±)-[7-(4-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (1.1 g, 3.01 mmol) with sodium azide (0.784 g, 12.04 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-7-(4-fluorophenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.074 g, 10 wt. %) generally according to the procedure described for Example 1 provided 0.542 g (64%) of (±)-1-[7-(4-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 237-240° C.; Anal. calcd. for C15H14FNOHCl: C, 64.4; H, 5.4; N, 5.01. Found: C, 64.26; H, 5.33; N, 4.85.

reactant | (±)-[7-(4-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 3.01 mmol, 1.1 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC=C(C=C2)F | C22H19FO4S
reactant | sodium azide | 12.04 mmol, 0.784 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-(4-fluorophenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=CC=C(C=C2)F | C15H12FN3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.074 g | [Pd] | Pd
product | (±)-1-[7-(4-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.542 g, 64% | FC1=CC=C(C=C1)C1=CC=CC=2CC(OC21)CN | C15H14FNO
